US06008230
A mixture of 8-amino-4-chloro-3-ethoxycarbonylquinoline (45 mg), triethylamine (0.026 ml) and 10%o palladium on carbon (15 mg) in dioxane was stirred for 7 hours at ambient temperature under 3 atmospheric pressure of hydrogen. Insoluble material was filtered off and the filtrate was concentrated in vacuo. The residue was purified by column chromatography on silica gel (ethyl acetate-dichloromethane) to give 8-amino-3-ethoxycarbonylquinoline (24.5 mg).

reactant | 8-amino-4-chloro-3-ethoxycarbonylquinoline | 45 mg | NC=1C=CC=C2C(=C(C=NC12)C(=O)OCC)Cl | C12H11ClN2O2
reactant | triethylamine | 0.026 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 15 mg | [Pd] | Pd
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 8-amino-3-ethoxycarbonylquinoline | 24.5 mg | NC=1C=CC=C2C=C(C=NC12)C(=O)OCC | C12H12N2O2
